US04468394
A mixture of 6,7-diacetoxy-1-ethyl-1,4-dihydro-4-oxoquinoline-3-caroxylic acid (60 mg), thionyl chloride (40 μL), and dimethylformamide (one drop) was heated under reflux for 3 hours in benzene (40 mL), and then the solvent was evaporated. To the residue was added benzene (20 mL). Benzene was evaporated and the residue was vacuum dried to give 6,7-diacetoxy-1-ethyl-1,4-dihydro-4-oxoquinoline-3-carbonyl chloride.

reactant | 6,7-diacetoxy-1-ethyl-1,4-dihydro-4-oxoquinoline-3-caroxylic acid | 60 mg | C(C)(=O)OC=1C=C2C(C(=CN(C2=CC1OC(C)=O)CC)C(=O)O)=O | C16H15NO7
reactant | thionyl chloride | 40 μL | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 6,7-diacetoxy-1-ethyl-1,4-dihydro-4-oxoquinoline-3-carbonyl chloride | C(C)(=O)OC=1C=C2C(C(=CN(C2=CC1OC(C)=O)CC)C(=O)Cl)=O | C16H14ClNO6
